US07253286B2
2-{[7-(Benzyloxy)-6-methoxy-4-quinolyl]sulfanyl}-5-nitro-1,3-thiazole
7-(Benzyloxy)-6-methoxy-1,4-dihydro-4-quinolinethione (14.8 g), 2-bromo-5-nitro-1,3-thiazole (10.4 g), potassium carbonate (10.3 g) and dimethylformamide (150 ml) were stirred together at room temperature for 50 minutes. After adding 800 ml of water to the reaction solution, the precipitated solid was filtered out and washed with ethyl acetate to obtain 13.4 g of a light ochre powder.

reactant | 7-(Benzyloxy)-6-methoxy-1,4-dihydro-4-quinolinethione | 14.8 g | C(C1=CC=CC=C1)OC1=C(C=C2C(C=CNC2=C1)=S)OC | C17H15NO2S
reactant | 2-bromo-5-nitro-1,3-thiazole | 10.4 g | BrC=1SC(=CN1)[N+](=O)[O-] | C3HBrN2O2S
reactant | potassium carbonate | 10.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | water | 800 ml | O | H2O
product | 2-{[7-(Benzyloxy)-6-methoxy-4-quinolyl]sulfanyl}-5-nitro-1,3-thiazole | C(C1=CC=CC=C1)OC1=C(C=C2C(=CC=NC2=C1)SC=1SC(=CN1)[N+](=O)[O-])OC | C20H15N3O4S2
